US03956374
Step C: 4-(o-Methylcinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
Triton B (1 ml., 40% in MeOH) is added to a stirred soluton of 1-(p-chlorophenyl)-4-phenyl-7-(o-methylphenyl)-1,6-heptadien-3-one (15.47 g., 0.04 mole) in glyme (150 ml.), followed by addition of methyl acrylate (4.13 g., 0.048 mole) in glyme (25 ml.). After stirring for 24 hours, the solvent is removed in vacuo, and water (600 ml.) and dilute hydrochloric acid (25 ml.) are added to the residue. The organic material is extracted into ether and these extracts are washed with water, saturated brine and dried (Na2SO4). After removal of the solvent, the residue is heated on a steam bath with a solution of 20% sodium hydroxide (25 ml.) in methanol (300 ml.) for 20 hours. The methanol is removed in vacuo and the residue is dissolved in water (1200 ml.). Extraction with ether removes unreacted ketone. Ether is expelled from the aqueous phase by warming. The solution is cooled in an ice bath, acidified with dilute hydrochloric acid (30 ml.), and the yellowish solid that precipitates is filtered and air-dried; yield 12.85 g., m.p. 60°-80°C. (glass). Several recrystallizations from n-butyl chloride, followed by a final recrystallization and ethanol gives material with m.p. 163.5°-165°C. Anal. Calcd. for C29H27ClO3 : C, 75.89; H, 5.93; Found: C, 75.67; H, 5.76.

reactant | 1-(p-chlorophenyl)-4-phenyl-7-(o-methylphenyl)-1,6-heptadien-3-one | 0.04 mole, 15.47 g | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=C(C=CC=C1)C)C1=CC=CC=C1)=O | C26H23ClO
reactant | methyl acrylate | 0.048 mole, 4.13 g | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | CO | CH4O
solvent | glyme | 150 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
product | 4-(o-Methylcinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | CC1=C(C=CCC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=CC=C1 | C29H27ClO3
